US07109225B2
e] 4-Allyl-2-isopropyl-5-methyl-oxazole
6.63 g of the above prepared N-(1-acetyl-but-3-enyl)-isobutyramide(33.61 mmol) were treated with 37 ml of trifluoroacetic acid (483 mmol) and 28.03 ml of trifluoroacetic anhydride (6 eq.) and kept for 3 h at 40°, when TLC indicated the disappearance of starting material. The reaction mixture was then poured onto crashed ice/NaHCO3, the aqueous layer (pH ˜8) extracted twice with AcOEt, washed with water and brine, dried over magnesium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=92/8) yielded 3.92 g of the title compound as yellowish oil.

reactant | N-(1-acetyl-but-3-enyl)-isobutyramide | 33.61 mmol | C(C)(=O)C(CC=C)NC(C(C)C)=O | C10H17NO2
reactant | trifluoroacetic acid | 483 mmol, 37 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic anhydride | 28.03 ml, 6 eq. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-Allyl-2-isopropyl-5-methyl-oxazole | 3.92 g | C(C=C)C=1N=C(OC1C)C(C)C | C10H15NO
